US07470723B2
To a solution of cyanomethylphosphonic acid diethyl ester (3.0 mL, 18.7 mmol) in anhydrous THF (20 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 18.7 mL, 18.7 mmol) at 0° C. and stirred for 30 min at room temperature followed by addition of benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl)-methanone (2.40 g crude, HPLC purity 93%, 9.4 mmol) in THF (15 mL) and refluxed for 3 hours. The reaction mixture was poured into water (80 mL), extracted with CH2Cl2 (2×60 mL). The combined organic phases were washed with brine (60 mL), dried over MgSO4, and purified via flash column chromatography (EtOAc, Hexane) to give 3-benzo[1,3]dioxol-5-yl-3-(4-methoxy-phenyl)-acrylonitrile as an oil (1.98 g, 76% yield): 1H NMR (DMSO-d6) δ 3.79 (s, 3H, OCH3), 3.83 (s, 3H, OCH3), 6.10-6.13 (ms, 6H, 2CH2 and 2CH), 6.70-7.33 (m, 14H, Ar); 13C NMR (DMSO-d6) δ 55.3, 55.4, 93.0, 93.2, 101.6, 101.8, 107.8, 108.2, 108.3, 109.3, 113.9, 114.1, 118.6, 118.7, 123.6, 123.8, 129.3, 129.9, 130.4, 130.8, 130.9, 132.4, 147.3, 147.8, 148.4, 149.3, 160.3, 160.9, 161.0, 161.1. LC/MS showed desired peak at 280 for (M+1)+1 positive ion mass.

reactant | cyanomethylphosphonic acid diethyl ester | 18.7 mmol, 3.0 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 18.7 mmol, 1.0 M, 18.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzo[1,3]dioxol-5-yl-(4-methoxy-phenyl)-methanone | 9.4 mmol, 2.40 g | O1COC2=C1C=CC(=C2)C(=O)C2=CC=C(C=C2)OC | C15H12O4
reactant | water | 80 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-benzo[1,3]dioxol-5-yl-3-(4-methoxy-phenyl)-acrylonitrile | 1.98 g, 76% yield | O1COC2=C1C=CC(=C2)C(=CC#N)C2=CC=C(C=C2)OC | C17H13NO3
